US07872139B2
2-(3,3-Dicyclohexylureido)-thiazole-5-carboxylic acid-(2-methanesulfonylethyl)amide
Prepared in 75% yield (170 mg) as described in general procedure (H) from 2-(3,3-dicyclohexylureido)thiazole-5-carboxylic acid (175 mg, 0.5 mmol) and 2-aminoethylmethylsulfone (HCl salt, 80 mg, 0.5 mmol).

reactant | 2-(3,3-dicyclohexylureido)thiazole-5-carboxylic acid | 0.5 mmol, 175 mg | C1(CCCCC1)N(C(NC=1SC(=CN1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | 2-aminoethylmethylsulfone | 0.5 mmol, 80 mg | NCCS(=O)(=O)C | C3H9NO2S
product | 2-(3,3-Dicyclohexylureido)-thiazole-5-carboxylic acid-(2-methanesulfonylethyl)amide | 75% yield | CS(=O)(=O)CCNC(=O)C1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C20H32N4O4S2
